US07956070B2
Step 1: Methyl 3-[2-({(2R)-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]-2-hydroxypropyl}amino)-2-oxoethoxy]benzoate
Prepared as for Example 15, Step 2 using [3-(methoxycarbonyl)phenoxy]acetic acid [Asian Journal of Chemistry 1992, 4(4), 920-3] and (2R)-1-amino-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]propan-2-ol to yield the subtitle compound as a pale yellow oil (0.11 g).

reactant | [3-(methoxycarbonyl)phenoxy]acetic acid | COC(=O)C=1C=C(OCC(=O)O)C=CC1 | C10H10O5
reactant | (2R)-1-amino-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]propan-2-ol | NC[C@H](CN1CCC(CC1)OC1=C(C(=C(C=C1)Cl)Cl)C)O | C15H22Cl2N2O2
product | Methyl 3-[2-({(2R)-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]-2-hydroxypropyl}amino)-2-oxoethoxy]benzoate | 0.11 g | ClC=1C(=C(OC2CCN(CC2)C[C@@H](CNC(COC=2C=C(C(=O)OC)C=CC2)=O)O)C=CC1Cl)C | C25H30Cl2N2O6
